US04200640
N-(2-hydroxyethyl) nicotinamide nitrate (1.145 g) was gradually added to 3 ml of fuming nitric acid which had been cooled to a temperature of from -10° to -5° C. while stirring. After stirring for an additional one hour at 0°-5° C., diethyl ether was added to the solution to precipitate 1.15 g of nitric ester of N-(2-hydroxyethyl) nicotinamide nitric acid ester as colorless crystals. The crystals were dissolved in a sodium carbonate aqueous solution and ethyl acetate was added to the solution. The ethyl acetate layer was separated, dried over sodium sulfate and evaporated under reduced pressure. The residue was crystallized from diethyl ether to give nitric ester of N-(2-hydroxyethyl) nicotinamide. Recrystallization from diethyl ether afforded colorless crystals having a melting point of 90°-92° C.

reactant | N-(2-hydroxyethyl) nicotinamide nitrate | 1.145 g | [N+](=O)(O)[O-].OCCNC(C1=CN=CC=C1)=O
reactant | nitric acid | 3 ml | [N+](=O)(O)[O-] | HNO3
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2-hydroxyethyl) nicotinamide | OCCNC(C1=CN=CC=C1)=O | C8H10N2O2
